* C:\Users\Drew Maatman\Documents\KiCad Projects\Projects\AC_Power_Meter\hdw\Design_Files\LTSpice\POS3P3_Power_Supply.asc
L1 N002 OUT 3.3µ Rser=0.09
R1 OUT N006 1Meg
R2 N006 0 576k
R3 N005 0 43.2k
C1 OUT 0 20µ Rser=1m Lser=1n
R4 IN N004 100K
V1 IN 0 12
C2 OUT N006 15p
XU1 N006 OUT N003 IN 0 N002 N001 OUT N004 N005 LT3973
C3 N002 N001 .47µ
Rload OUT 0 5
R5 IN N003 80.6k
R6 N003 0 10k
.tran 750u startup
.lib LT3973.sub
.backanno
.end
